US05500423
5,6-Dihydro-2-(4-morpholinyl)-4H-imidazo[4,5,1-ij]quinoline
A solution of 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline (2.50 g) in morpholine (15 ml) was heated under reflux, under nitrogen, with stirring. After one hr, the solution was diluted with sodium bicarbonate solution (100 ml) and water (100 ml). The aqueous solution was extracted with chloroform. The organic phase was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by high performance liquid chromatography (silica gel; ethyl acetate). The appropriate fractions were collected and concentrated. The residue was crystallized from ether to give 2.1 g (67%) of product, mp 93°-94° C.

reactant | 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline | 2.50 g | ClC1=NC=2C=CC=C3CCCN1C23 | C10H9ClN2
reactant | morpholine | 15 ml | N1CCOCC1 | C4H9NO
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 5,6-Dihydro-2-(4-morpholinyl)-4H-imidazo[4,5,1-ij]quinoline | 2.1 g, 67% | N1(CCOCC1)C1=NC=2C=CC=C3CCCN1C23 | C14H17N3O
